US04140789
0.030 g of p-toluenesulphonic acid and 17.8 g of 3,4-dihydro-2H-pyrane are added to a mixture of 29.8 g of 2,3-dihydroxy-nitrobenzene in 400 ml of absolute benzene and the solution is left to stand for 7 days at 20°. It is filtered through 15 g of a silica gel formulation (Merck silica gel 60; grain size 0.063-0.200 mm) and the silica gel is rinsed with benzene. After distilling off the benzene under reduced pressure, a reddish oil is obtained which, when crystallised from hexane, gives 2-hydroxy-3-(tetrahydropyran-2-yloxy)-nitrobenzene in the form of yellow crystals; melting point 72°-73°.

reactant | p-toluenesulphonic acid | 0.030 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 3,4-dihydro-2H-pyrane | 17.8 g | O1CCCC=C1 | C5H8O
reactant | 2,3-dihydroxy-nitrobenzene | 29.8 g | OC1=C(C=CC=C1O)[N+](=O)[O-] | C6H5NO4
solvent | benzene | 400 ml | C1=CC=CC=C1 | C6H6
product | 2-hydroxy-3-(tetrahydropyran-2-yloxy)-nitrobenzene | OC1=C(C=CC=C1OC1OCCCC1)[N+](=O)[O-] | C11H13NO5
